US07317125B2
Preparation of benzoic acid N′-[2-(2-sec-butyl-phenoxy)-acetyl]-N′-isopropyl-hydrazide
A solution of (2-sec-butyl-phenoxy)-acetic acid (193 mg, 0.93 mmol), and benzoic acid N′-isopropyl-hydrazide (150 mg, 0.842 mmol) in DMF (5 ml), was treated with triethylamine (0.352 ml, 2.52 mmol), HOBT (136 mg, 1.00 mmol), and EDCI (194 mg, 1.00 mmol) for 12 hours at room temperature. The reaction mixture was partitioned between 1N HCl and DCM. The organic layer was successively washed with 1N NaOH and brine, then dried over sodium sulfate, filtered, and concentrated. The crude was absorbed on silica and purified on a silica gel column with 50% ethyl acetate/hexanes to afford the product as a white solid (113 mg, 33%). MS m/e 369.32 (M+H+)

reactant | (2-sec-butyl-phenoxy)-acetic acid | 0.93 mmol, 193 mg | C(C)(CC)C1=C(OCC(=O)O)C=CC=C1 | C12H16O3
reactant | benzoic acid N′-isopropyl-hydrazide | 0.842 mmol, 150 mg | C(C)(C)NNC(C1=CC=CC=C1)=O | C10H14N2O
reactant | triethylamine | 2.52 mmol, 0.352 ml | C(C)N(CC)CC | C6H15N
reactant | HOBT | 1.00 mmol, 136 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.00 mmol, 194 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | benzoic acid N′-[2-(2-sec-butyl-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 113 mg, 33% | C(C)(CC)C1=C(OCC(=O)N(NC(C2=CC=CC=C2)=O)C(C)C)C=CC=C1 | C22H28N2O3
